US06759428B2
To 760 mg of ethyl 2-indole carboxylate (4 mmol) dissolved in 8 ml dimethyl sulfoxide was added 290 mg of crushed potassium hydroxide (4.4 mmol). The mixture was stirred for approximately 30 minutes. 1.8 ml of isobutylene oxide was then added and the mixture was stirred at 50 C for 65 hours. The reaction was worked up by addition of water, 1M HCl to adjust the pH to 4-5, and ethyl acetate. The layers were separated and the ethyl acetate layer was washed with brine and dried over sodium sulfate. Evaporation gave 1-(2-hydroxy-2-methyl-propyl)-1H-indole-2-carboxylic acid (840 mg) as a solid (M−H=233) that was used directly in the next step.

reactant | ethyl 2-indole carboxylate | 4 mmol, 760 mg | N1C(=CC2=CC=CC=C12)C(=O)OCC | C11H11NO2
reactant | potassium hydroxide | 4.4 mmol, 290 mg | [OH-].[K+]
reactant | isobutylene oxide | 1.8 ml | CC1(C)CO1 | C4H8O
reactant | HCl | 1M | Cl | ClH
solvent | dimethyl sulfoxide | 8 ml | CS(=O)C | C2H6OS
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | 1-(2-hydroxy-2-methyl-propyl)-1H-indole-2-carboxylic acid | 840 mg | OC(CN1C(=CC2=CC=CC=C12)C(=O)O)(C)C | C13H15NO3
